US05053543
To a solution of N,O-dimethylhydroxylamine hydrochloride (51.2 g, 0.53 mmol) in 90-95% aqueous ethanol (200 ml) is added triethylamine (53 g, 0.53 mmol) and, after 10 minutes stirring at 25° C., isatoic anhydride (37.0 g, 0.35 mmol) in portions. The reaction is then heated at reflux for 1.5 hrs and poured onto an equal volume of ice and saturated sodium bicarbonate. The ethanol is then removed by rotary evaporation, the resulting aqueous mixture extracted with ethyl acetate (3×150 ml), the combined extracts washed with water, brine, dried over magnesium sulfate and activated charcoal, and concentrated to an orange oil. The oil is chromatographed on silica gel (1:1 diethyl ether:hexanes, then acetone) and distilled to give N-methoxy-N-methyl anthranilic acid amide as a pale yellow oil; yield 47.4 g (75%); b.p. 148°-151° C./0.35 mm.

reactant | N,O-dimethylhydroxylamine hydrochloride | 0.53 mmol, 51.2 g | Cl.CNOC
reactant | triethylamine | 0.53 mmol, 53 g | C(C)N(CC)CC | C6H15N
reactant | isatoic anhydride | 0.35 mmol, 37.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-methoxy-N-methyl anthranilic acid amide | CON(C(C=1C(N)=CC=CC1)=O)C | C9H12N2O2
